US05747498
[6,7-Bis-(2-methoxy-ethoxy)-quinazolin-4-yl]-(3-ethynyl-4-fluoro-phenyl)-amine Hydrochloride
4-Chloro-6,7-bis-(2-methoxy-ethoxy)-quinazoline (140 mg, 0.446 mmol) and 3-ethynyl-4-fluoroaniline (66 mg, 0.452 mmol) were reacted in refluxing isopropanol (3 mL) under an atmosphere of N2 for 16 hours. The solvent was removed in vacuo and the residue was partitioned between CHCl3 and saturated aqueous NaHCO3. The organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The crude product was chromatographed on silica using 40% acetone/CH2Cl2 to provide 116 mg of the pure title product as its free base. This oil was dissolved in a minimum volume of CHCl3, diluted with several volumes of ether and titrated with 1M HCl in ether to precipitate the title product as a white solid (99 mg; 50%; M.P. 170°-190° C. (dec); LC-MS: 412 (MH+); anal. RP18-HPLC RT: 4.33 min.).

reactant | 4-Chloro-6,7-bis-(2-methoxy-ethoxy)-quinazoline | 0.446 mmol, 140 mg | ClC1=NC=NC2=CC(=C(C=C12)OCCOC)OCCOC | C14H17ClN2O4
reactant | 3-ethynyl-4-fluoroaniline | 0.452 mmol, 66 mg | C(#C)C=1C=C(N)C=CC1F | C8H6FN
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
product | [6,7-Bis-(2-methoxy-ethoxy)-quinazolin-4-yl]-(3-ethynyl-4-fluoro-phenyl)-amine Hydrochloride | 116 mg | Cl.COCCOC=1C=C2C(=NC=NC2=CC1OCCOC)NC1=CC(=C(C=C1)F)C#C | InChI=1S/C22H22FN3O4.ClH/c1-4-15-11-16(5-6-18(15)23)26-22-17-12-20(29-9-7-27-2)21(30-10-8-28-3)13-19(17)24-14-25-22;/h1,5-6,11-14H,7-10H2,2-3H3,(H,24,25,26);1H
